US07112610B2
To (4R,5S)-4-methyl-3-((R)-4-methyl-heptanoyl)-5-phenyl-oxazolidin-2-one (12.1 g, 0.04 mol) in THF (200 ml) at −50° C. was added sodium bis(trimethylsilyl)amide (48 mL of a 1 M solution in THF). After 30 min t-butylbromoaceate (15.6 g, 0.08 mol) was added. The solution was stirred for 4 hours at −50° C. and then warmed to room temperature. After 16 hours a saturated aqueous solution of ammonium chloride was added and the two layers separated. The aqueous phase was extracted with ether and the combined organic phases dried (MgSO4) and concentrated. Flash chromatography (9:1 hexane/EtOAc) gave (3S,5R)-5-methyl-3-((4R,5S)-4-methyl-2-oxo-5-phenyl-oxazolidine-3-carbonyl)-octanoic acid tert-butyl ester as a white solid 12 g; 72%. [α]D=+30.2 (c 1 in CHCl3). 13C NMR (100 MHz; CDCl3) δ 176.47, 171.24, 152.72, 133.63, 128.87, 125.86, 80.85, 78.88, 55.34, 39.98, 38.77, 38.15, 37.58, 30.60, 28.23, 20.38, 20.13, 14.50, 14.28.

reactant | (4R,5S)-4-methyl-3-((R)-4-methyl-heptanoyl)-5-phenyl-oxazolidin-2-one | 0.04 mol, 12.1 g | C[C@H]1N(C(O[C@H]1C1=CC=CC=C1)=O)C(CC[C@@H](CCC)C)=O | C18H25NO3
reactant | sodium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | t-butylbromoaceate | 0.08 mol, 15.6 g | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | (3S,5R)-5-methyl-3-((4R,5S)-4-methyl-2-oxo-5-phenyl-oxazolidine-3-carbonyl)-octanoic acid tert-butyl ester | 12 g | C(C)(C)(C)OC(C[C@H](C[C@@H](CCC)C)C(=O)N1C(O[C@H]([C@H]1C)C1=CC=CC=C1)=O)=O | C24H35NO5
